US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-2-chlorobenzene (870 mg, 4.4 mmol) and 2-amino-3,4-difluorothiophenol hydrochloride (956 mg, 4.8 mmol) and the resultant product was recrystallized from ethyl acetate-hexane to give 3-[(4,5-difluorobenzothiazol-2-yl)methyl]-2-chlorophenylacetonitrile (295 mg, 20%) as a colorless powder.

reactant | 1,3-biscyanomethyl-2-chlorobenzene | 4.4 mmol, 870 mg | C(#N)CC1=C(C(=CC=C1)CC#N)Cl | C10H7ClN2
reactant | 2-amino-3,4-difluorothiophenol hydrochloride | 4.8 mmol, 956 mg | Cl.NC1=C(C=CC(=C1F)F)S
product | 3-[(4,5-difluorobenzothiazol-2-yl)methyl]-2-chlorophenylacetonitrile | 295 mg, 20% | FC1=C(C=CC2=C1N=C(S2)CC=2C(=C(C=CC2)CC#N)Cl)F | C16H9ClF2N2S
